US05866588
A stirred solution of 3-(6-[3-pyrrolidin-1-yl-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enal (925 mg, 2.78 mmol) in anhydrous THF (30 ml) at -78° C. was treated dropwise with a solution of n-propyl magnesium chloride (1.53 ml, 2.0 M in diethylether, 3.06 mmol). The reaction mixture was allowed to warm slowly to room temperature (~2 hours). The reaction was quenched with water (3 ml) and THF removed under reduced pressure. The residue was taken up in 1M HCl and then basified with solid sodium bicarbonate to pH 8. The product was extracted with ethyl acetate (×3). The organics were combined, dried over sodium sulphate, filtered and concentrated under reduced pressure. The product was purified by column chromatography eluting with 5-8% methanol in DCM. Product containing fractions were combined and solvent removed to provide 1-(6-[3-pyrrolidin-1-yl-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-hex-1E-en-3-ol as a pale pink foam (593 mg, 57%). 1H-NMR; δ (CDCl3), 7.44 (1H, t, J=7.7 Hz), 7.24-7.18 (3H, m), 7.12-7.07 (3H, m), 6.89 (1H, dd, J=15.7, 6.2 Hz), 6.68 (2H, m), 4.38 (1H, m), 3.35 (2H, d, J=7.1 Hz), 2.41 (4H, bs), 1.86 (3H, s), 1.71-1.61 (2H, m), 1.58-1.42 (2H, m), 1.47 (3H, t, J=7.0 Hz).

reactant | 3-(6-[3-pyrrolidin-1-yl-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enal | 2.78 mmol, 925 mg | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)/C=C/C=O | C22H24N2O
reactant | n-propyl magnesium chloride | 3.06 mmol, 2.0 M, 1.53 ml | C(CC)[Mg]Cl
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(6-[3-pyrrolidin-1-yl-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-hex-1E-en-3-ol | 593 mg, 57% | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)\C=C\C(CCC)O | C25H32N2O
